US09079866B2
4′-(5-Aminopyrazin-2-yl)-N,N-diethyl-3′-fluorobiphenyl-2-carboxamide
The title compound was prepared using methods analogous to those described in Example 369 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 2-bromo-N,N-diethylbenzamide. MS (ESI): mass calcd. for C21H21FN4O, 364.17; m/z found, 365.2 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.59-8.54 (m, 1H), 8.11 (d, J=1.5, 1H), 8.00-7.90 (m, 1H), 7.50-7.36 (m, 5H), 7.36-7.29 (m, 1H), 4.69 (s, 2H), 3.87-3.69 (m, 1H), 3.17-2.92 (m, 2H), 2.85-2.66 (m, 1H), 0.99 (t, J=7.1, 3H), 0.81 (t, J=7.1, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N,N-diethylbenzamide | BrC1=C(C(=O)N(CC)CC)C=CC=C1 | C11H14BrNO
product | 4′-(5-Aminopyrazin-2-yl)-N,N-diethyl-3′-fluorobiphenyl-2-carboxamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)N(CC)CC)F | C21H21FN4O
